US04470973
(d) 1-[N-[7-Amino-3-(benzoylamino)-2-oxoheptyl]-L-alanyl]-L-proline, dihydrochloride
1-[N-[3-(Benzoylamino)-7-[[(phenylmethoxy)carbonyl]amino]-2-oxoheptyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phenylmethyl ester (1.3 g., 1.6 mmole) is dissolved in ethanol (75 ml.) and aqueous hydrochloric acid (1N, 5 ml.). Palladium on carbon catalyst (10%, 450 mg.) is added and the mixture is hydrogenated at atmospheric pressure overnight. The catalyst is filtered off and the solution is evaporated in vacuo. The residue is dissolved in water and lyophilized. The lyophilate is triturated with ether to give 0.6 g. of 1-[N-[7-amino-3-(benzoylamino)-2-oxoheptyl]-L-alanyl]-L-proline, hydrochloride; m.p. 80°-155°; [α]D22 =-50° (c=1.1, methanol). Rf 0.09 (silica gel, n-butanol/acetic acid/water, 4:1:1).

reactant | 1-[N-[3-(Benzoylamino)-7-[[(phenylmethoxy)carbonyl]amino]-2-oxoheptyl]-N-[(phenylmethoxy)carbonyl]-L-alanyl]-L-proline, phenylmethyl ester | 1.6 mmole, 1.3 g | C(C1=CC=CC=C1)(=O)NC(C(CN([C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OCC1=CC=CC=C1)=O)CCCCNC(=O)OCC1=CC=CC=C1 | C45H50N4O9
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
reactant | 1-[N-[7-amino-3-(benzoylamino)-2-oxoheptyl]-L-alanyl]-L-proline, hydrochloride | Cl.NCCCCC(C(CN[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)=O)NC(C1=CC=CC=C1)=O
reactant | methanol | CO | CH4O
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 450 mg | [Pd] | Pd
solvent | n-butanol acetic acid water | C(CCC)O.C(C)(=O)O.O
product | 1-[N-[7-Amino-3-(benzoylamino)-2-oxoheptyl]-L-alanyl]-L-proline, dihydrochloride | Cl.Cl.NCCCCC(C(CN[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1)=O)NC(C1=CC=CC=C1)=O | InChI=1S/C22H32N4O5.2ClH/c1-15(21(29)26-13-7-11-18(26)22(30)31)24-14-19(27)17(10-5-6-12-23)25-20(28)16-8-3-2-4-9-16;;/h2-4,8-9,15,17-18,24H,5-7,10-14,23H2,1H3,(H,25,28)(H,30,31);2*1H/t15-,17?,18-;;/m0../s1
